US05216167
Ethyl 3-[2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-phenyl]-propionate
A solution of ethyl 2-ethoxy-4-[N-(1-(2-piperidinophenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate (0.54 g, 1.1 mmol) in ethanol (15 ml) is hydrogenated for 1 hour at ambient temperature and under 3 bars of hydrogen on 10% palladium/charcoal (0.1 g). The mixture is filtered, concentrated by evaporation in vacuo and the evaporation residue is crystallized from petroleum ether.

reactant | ethyl 2-ethoxy-4-[N-(1-(2-piperidinophenyl)-1-butyl)-aminocarbonylmethyl]-cinnamate | 1.1 mmol, 0.54 g | C(C)OC1=C(C=CC(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C30H40N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.1 g | [Pd] | Pd
product | Ethyl 3-[2-ethoxy-4-[N-(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-phenyl]-propionate | C(C)OC1=C(C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1)CCC(=O)OCC | C30H42N2O4
